US04517188
α,α-Dimethyl-β-(thienyl)ethaneamine
A solution of 2,2-dimethyl-3-(2-thienyl)propanoic acid (11.2 g, 0.06 mole), diphenylphosphorylazide (16.7 g, 0.06 mole) (Aldrich Chemical Company), and triethylamine (6.14 g, 0.06 mole) in t-butanol (100 mL) was heated at reflux for 5 hrs. The solution was poured into water (300 mL) and the crude material extracted with ether. The combined extracts were washed with brine, dried (MgSO4) and evaporated to 11.9 g of an oil. This oil was added to a mixture of ethylene glycol (50 mL), H2O (20 drops) and KOH (10 g). The mixture was heated at reflux for 5 hr, cooled to 25°, diluted with H2O (300 mL) and acidified to pH 1 with conc HCl. Acid insoluble material was removed by washing with ether. The aqueous solution was then made basic with 50% NaOH solution and the product was extracted with ether. The ether extracts were combined, washed with brine, dried (MgSO4) and concentrated in vacuo to 6.9 g (74%) of product. The NMR spectrum is consistent with the structure of this intermediate compound.

reactant | 2,2-dimethyl-3-(2-thienyl)propanoic acid | 0.06 mole, 11.2 g | CC(C(=O)O)(CC=1SC=CC1)C | C9H12O2S
reactant | diphenylphosphorylazide | 0.06 mole, 16.7 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.06 mole, 6.14 g | C(C)N(CC)CC | C6H15N
reactant | water | 300 mL | O | H2O
solvent | t-butanol | 100 mL | C(C)(C)(C)O | C4H10O
product | α,α-Dimethyl-β-(thienyl)ethaneamine | CC(CC=1SC=CC1)(N)C | C8H13NS
